US07943622B2
Step 2. Synthesis of (2-(4-methoxyphenylamino)oxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-(4-methoxyphenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (35.5 mg, 0.057 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). The mixture was concentrated under reduced pressure to give 20 mg (73%) of the title compound as a white solid. LC-MS: RT=3.51 min, [M+H]+=410.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-(4-methoxyphenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.057 mmol, 35.5 mg | OC(=O)C(F)(F)F.COC1=CC=C(C=C1)NC=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | (2-(4-methoxyphenylamino)oxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 20 mg, 73% | Cl.Cl.COC1=CC=C(C=C1)NC=1OC=C(N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C21H23N5O4.2ClH/c1-28-17-6-4-15(5-7-17)24-21-25-19(14-30-21)20(27)26-10-9-23-11-16(26)13-29-18-3-2-8-22-12-18;;/h2-8,12,14,16,23H,9-11,13H2,1H3,(H,24,25);2*1H
